US08242124B2
Part C: To a solution of 7-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (4.75 g, 18.3 mmol) in 1,4-dioxane (80 mL) at 25° C. was added sequentially 2-(tributylstannyl)pyridine (98%, 5.95 mL, 18.3 mmol), tri-2-furylphosphine (0.85 g, 3.66 mmol), and palladium (II) acetate (0.205 g, 0.914 mmol). The resulting mixture was heated slowly to reflux over ˜0.25 h and then was stirred at reflux for 5.0 h. After cooling to room temperature the mixture was diluted with water and ethyl acetate, and the mixture filtered. The phases were separated, and the organic phase washed with water and brine, dried over anhyd. sodium sulfate, filtered, and concentrated. Column chromatography (elution: 0-5% 2M ammonia in methanol/chloroform) afforded 7-benzyl-4-(pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (2.15 g, 39%) as a red oil; Mass Spec.: m/c: 303.15 (M+H)+ [calc'd: 303.15]; 1H NMR (500 MHz, CDCl3) δ 9.02 (s, 1H), 8.68 (m, 1H), 8.01 (m, 1H), 7.83 (m, 1H), 7.42-7.27 (m, 6H), 3.80 (m, 4H), 3.31 (m, 2H), 2.80 (m, 2H).

reactant | 7-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 18.3 mmol, 4.75 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)Cl | C14H14ClN3
reactant | 2-(tributylstannyl)pyridine | 18.3 mmol, 5.95 mL | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | tri-2-furylphosphine | 3.66 mmol, 0.85 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium (II) acetate | 0.914 mmol, 0.205 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-benzyl-4-(pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 2.15 g, 39% | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)C1=NC=CC=C1 | C19H18N4
